US08557840B2
Preparation of isobutyric acid 3-(3-bromo-2-chloro-6-fluoro-phenyl)-1-(2,2-difluoro-ethyl)-2-oxo-1,2-dihydro-[1,8]naphthyridin-4-yl ester (Compound No. D23 of Table D)
To a solution of Isobutyric acid 3-(3-bromo-2-chloro-6-fluoro-phenyl)-2-hydroxy-[1,8]naphthyridin-4-yl ester (1.749 g) in acetonitrile (17 ml) was added N,N-diisopropylethylamine (“Hunig's base”) (0.83 ml) at ambient temperature. The mixture was stirred for 5 minutes at ambient temperature before drop wise addition of a solution of 2,2-difluoroethyltrifluoromethanesulfonate (1.022 g) at ambient temperature. The reaction mixture was stirred at ambient temperature for 7 hours when further 2,2-difluoroethyltrifluoromethanesulfonate (0.5 g) and the reaction was stirred overnight. A further portion of 2,2-difluoroethyltrifluoromethanesulfonate (0.5 g) and N,N-diisopropylethylamine (“Hunig's base”) (0.83 ml) was added and the reaction was stirred for 5 hours then left to stand overnight. The reaction was concentrated and partitioned between ethyl acetate and 2M hydrochloric acid. The organic layer was dried and concentrated and the oily residue was purified by column chromatography on silica (eluent: 4:1 hexane:ethyl acetate) to give Compound No. D23 of Table D as a light yellow solid (1.56 g).

reactant | Isobutyric acid 3-(3-bromo-2-chloro-6-fluoro-phenyl)-2-hydroxy-[1,8]naphthyridin-4-yl ester | 1.749 g | BrC=1C(=C(C(=CC1)F)C=1C(=NC2=NC=CC=C2C1OC(C(C)C)=O)O)Cl | C18H13BrClFN2O3
reactant | N,N-diisopropylethylamine | 0.83 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2-difluoroethyltrifluoromethanesulfonate | 1.022 g | FC(COS(=O)(=O)C(F)(F)F)F | C3H3F5O3S
reactant | 2,2-difluoroethyltrifluoromethanesulfonate | 0.5 g | FC(COS(=O)(=O)C(F)(F)F)F | C3H3F5O3S
reactant | 2,2-difluoroethyltrifluoromethanesulfonate | 0.5 g | FC(COS(=O)(=O)C(F)(F)F)F | C3H3F5O3S
reactant | N,N-diisopropylethylamine | 0.83 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 17 ml | C(C)#N | C2H3N
product | isobutyric acid 3-(3-bromo-2-chloro-6-fluoro-phenyl)-1-(2,2-difluoro-ethyl)-2-oxo-1,2-dihydro-[1,8]naphthyridin-4-yl ester | BrC=1C(=C(C(=CC1)F)C=1C(N(C2=NC=CC=C2C1OC(C(C)C)=O)CC(F)F)=O)Cl | C20H15BrClF3N2O3
